US07304068B2
7-Chloro-2-phenylpyrazolo[1,5-α]pyrimidine (0.1 g, 0.44 mmol, prepared as described in J. Med. Chem. 1981, 24, 610) was dissolved in dichloromethane (5 mL) and to this solution was added N-bromosuccinimide (108 mg, 0.61 mmol). The resulting reaction mixture was stirred for 30 minutes. Additional dichloromethane was added and the mixture was extracted with sodium hydroxide (1N), water and a saturated aqueous sodium chloride solution. The organic phase was dried over magnesium sulfate, filtered and concentrated. The resulting solid was purified by silica gel chromatography (ethyl acetate:hexane 1:2) to give 110 mg (82%) of 3-bromo-7-chloro-2-phenylpyrazolo[1,5-α]pyrimidine as a yellow solid.

reactant | 7-Chloro-2-phenylpyrazolo[1,5-α]pyrimidine | 0.44 mmol, 0.1 g | ClC1=CC=NC=2N1N=C(C2)C2=CC=CC=C2 | C12H8ClN3
reactant | N-bromosuccinimide | 0.61 mmol, 108 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-bromo-7-chloro-2-phenylpyrazolo[1,5-α]pyrimidine | 110 mg, 82% | BrC=1C(=NN2C1N=CC=C2Cl)C2=CC=CC=C2 | C12H7BrClN3
